** sch_path: /foss/designs/DLL/2026/testbenchs/tb_TOP_IO.sch
**.subckt tb_TOP_IO
V1 IO_vdd GND 1.2
V2 IO_iovdd GND 3.3
V3 IO_vss GND 0
V4 IO_iovss GND 0
x1 IO_iovdd IO_iovss IO_vss IO_vdd sg13g2_IOPadIOVdd
x3 IO_iovdd IO_iovss IO_vss IO_vdd sg13g2_IOPadIOVss
x2 IO_iovdd IO_iovss IO_vss IO_vdd sg13g2_IOPadVSS
x4 IO_iovdd IO_iovss IO_vss IO_vdd sg13g2_IOPadVdd
XX6 IO_iovss bondpad size=80u shape=0 padtype=0
XX7 IO_iovdd bondpad size=80u shape=0 padtype=0
XX8 IO_vdd bondpad size=80u shape=0 padtype=0
XX9 IO_vss bondpad size=80u shape=0 padtype=0
x13 IO_iovdd IO_iovss vin IO_vss IO_vdd in_a sg13g2_IOPadAnalog
XX14 in_a bondpad size=80u shape=0 padtype=0
V5 GND sub! 0
XX16 out_a bondpad size=80u shape=0 padtype=0
x17 IO_vdd vout vin vcont IO_vss vcont vout TOP
Vin net1 GND PULSE(0 1.2 0 40p 40p 2n 4n)
R4 net1 in_a 10 m=1
x5 IO_iovdd IO_iovss vout IO_vss IO_vdd out_a sg13g2_IOPadAnalog
x10 IO_iovdd IO_iovss net3 IO_vss IO_vdd net2 sg13g2_IOPadAnalog
XX11 net2 bondpad size=80u shape=0 padtype=0
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.include diodes.lib
.include sg13g2_bondpad.lib
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice



.options method=gear reltol=1e-1 abstol=1e-1 vntol=1e-1
.control
 tran 20p 50n 20p
* ---- settings you tweak ----


   * ---- user settings ----
  let vlow  = 0
  let vhigh = 1.2
  let v50   = vlow + 0.5*(vhigh - vlow)

  let start_edge = 0     ; skip early edges (settling)
  let N = 600             ; number of phase samples




  * ---- allocate vectors ----
  let tvec   = vector(N)
  let phivec = vector(N)

  let k = 0
  let i = start_edge

  while k < N
    * crossing times
    meas tran tin      WHEN v(in_a)=v50  RISE=i
    meas tran tout     WHEN v(out_a)=v50 RISE=i
    meas tran tin_next WHEN v(in_a)=v50  RISE=(i+1)

    * delay + period
    let dt = tout - tin
    let T  = tin_next - tin

    * phase in degrees (per-cycle)
    let phi = 360*dt/T
    let phi = phi - 360*floor(phi/360)

    * store sample at time = tin
    let tvec[k]   = tin
    let phivec[k] = phi

    let k = k + 1
    let i = i + 1
  end

  * plot phase vs time (one point per cycle)
  plot phivec vs tvec
  *plot v(vcont)
  plot v(vin) v(vout)
  plot v(in_a) v(out_a)
  plot v(vcont)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  sg13g2_IOPadIOVdd.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIOVdd.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIOVdd.sch
.subckt sg13g2_IOPadIOVdd iovdd iovss vss vdd
*.iopin iovss
*.iopin iovdd
*.iopin vss
*.iopin vdd
x1 net2 iovdd sg13g2_RCClampResistor
x2 iovdd net1 net2 iovss sg13g2_RCClampInverter
.ends


* expanding   symbol:  sg13g2_IOPadIOVss.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIOVss.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadIOVss.sch
.subckt sg13g2_IOPadIOVss iovdd iovss vss vdd
*.iopin iovss
*.iopin iovdd
*.iopin vdd
*.iopin vss
x8 iovss iovss iovdd sg13g2_DCNDiode
x9 iovdd iovss iovss sg13g2_DCPDiode
* noconn vdd
* noconn vss
.ends


* expanding   symbol:  sg13g2_IOPadVSS.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadVSS.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadVSS.sch
.subckt sg13g2_IOPadVSS iovdd iovss vss vdd
*.iopin iovss
*.iopin iovdd
*.iopin vss
*.iopin vdd
x1 vss iovss iovdd sg13g2_DCNDiode
x2 iovdd vss iovss sg13g2_DCPDiode
* noconn vdd
.ends


* expanding   symbol:  sg13g2_IOPadVdd.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadVdd.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadVdd.sch
.subckt sg13g2_IOPadVdd iovdd iovss vss vdd
*.iopin vdd
*.iopin iovdd
*.iopin vss
*.iopin iovss
x6 vdd net2 sg13g2_RCClampResistor
x1 vdd net1 net2 vss sg13g2_RCClampInverter
.ends


* expanding   symbol:  sg13g2_IOPadAnalog.sym # of pins=6
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadAnalog.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_IOPadAnalog.sch
.subckt sg13g2_IOPadAnalog iovdd iovss padres vss vdd pad
*.iopin padres
*.iopin iovss
*.iopin iovdd
*.iopin pad
*.iopin vdd
*.iopin vss
x3 pad iovss iovdd sg13g2_DCNDiode
x4 iovdd pad iovss sg13g2_DCPDiode
x1 pad iovdd iovss sg13g2_Clamp_N20N0D
x2 iovdd pad iovss sg13g2_Clamp_P20N0D
x5 iovdd pad padres iovss sg13g2_SecondaryProtection
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/TOP.sym # of pins=7
** sym_path: /foss/designs/DLL/2026/Cells/TOP.sym
** sch_path: /foss/designs/DLL/2026/Cells/TOP.sch
.subckt TOP VDD VOUT VIN VCONT VSS CPOUT PD2
*.iopin VDD
*.opin VOUT
*.ipin VCONT
*.ipin VIN
*.iopin VSS
*.ipin PD2
*.opin CPOUT
x1 VSS VDD net1 VOUT DLine
x2 VDD VIN net1 VCONT VSS VCDL
x3 VDD VSS VIN net2 PD2 PD
x4 net2 CPOUT VSS CP
.ends


* expanding   symbol:  sg13g2_RCClampResistor.sym # of pins=2
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_RCClampResistor.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_RCClampResistor.sch
.subckt sg13g2_RCClampResistor pin2 pin1
*.iopin pin1
*.iopin pin2
XR1 pin1 net1 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR2 net1 net2 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR3 net2 net3 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR4 net3 net4 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR5 net8 net7 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR6 net7 net6 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR7 net6 net5 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR8 net5 net4 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR9 net8 net9 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR10 net9 net10 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR11 net10 net11 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR12 net11 net12 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR13 net16 net15 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR14 net15 net14 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR15 net14 net13 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR16 net13 net12 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR17 net16 net17 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR18 net17 net18 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR19 net18 net19 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR20 net19 net20 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR21 net24 net23 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR22 net23 net22 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR23 net22 net21 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR24 net21 net20 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR25 net24 net25 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
XR26 net25 pin2 sub! rppd w=1.0e-6 l=20.0e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_RCClampInverter.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_RCClampInverter.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_RCClampInverter.sch
.subckt sg13g2_RCClampInverter supply out in ground
*.iopin supply
*.iopin ground
*.opin out
*.ipin in
XM1 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM2 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM3 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM4 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM5 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM6 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM7 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM8 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM9 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM10 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM11 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM12 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM13 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM14 ground in ground ground sg13_hv_nmos w=9.0u l=9.5u ng=1 m=1
XM15 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM16 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM17 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM18 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM19 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM20 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM21 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM22 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM23 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM24 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM25 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM26 out in ground ground sg13_hv_nmos w=9.0u l=0.5u ng=1 m=1
XM27 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM28 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM29 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM30 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM31 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM32 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM33 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM34 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM35 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM36 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM37 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM38 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM39 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM40 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM41 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM42 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM43 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM44 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM45 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM46 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM47 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM48 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM49 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM50 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM51 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM52 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM53 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM54 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM55 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM56 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM57 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM58 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM59 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM60 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM61 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM62 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM63 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM64 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM65 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM66 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM67 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM68 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM69 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM70 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM71 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM72 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM73 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM74 net1 in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM75 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
XM76 out in supply supply sg13_hv_pmos w=7.0u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode anode guard
*.iopin cathode
*.iopin anode
*.iopin guard
XD1 anode cathode dantenna l=1.26u w=27.78u
XD2 anode cathode dantenna l=1.26u w=27.78u
* noconn guard
.ends


* expanding   symbol:  sg13g2_DCPDiode.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCPDiode.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_DCPDiode.sch
.subckt sg13g2_DCPDiode cathode anode guard
*.iopin cathode
*.iopin anode
*.iopin guard
XD1 anode cathode dpantenna l=1.26u w=27.78u
XD2 anode cathode dpantenna l=1.26u w=27.78u
* noconn guard
.ends


* expanding   symbol:  sg13g2_Clamp_N20N0D.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sch
.subckt sg13g2_Clamp_N20N0D pad iovdd iovss
*.iopin iovss
*.iopin pad
*.iopin iovdd
XM1 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM2 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM3 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM4 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM5 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM6 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM7 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM8 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM9 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM10 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM11 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM12 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM13 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM14 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM15 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM16 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM17 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM18 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM19 pad net1 iovss iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XM20 iovss net1 pad iovss sg13_hv_nmos w=4.4u l=0.6u ng=1 m=1
XR1 iovss net1 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_Clamp_P20N0D.sym # of pins=3
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_P20N0D.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_Clamp_P20N0D.sch
.subckt sg13g2_Clamp_P20N0D iovdd pad iovss
*.iopin iovdd
*.iopin pad
*.iopin iovss
XM1 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM2 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM3 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM4 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM5 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM6 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM7 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM8 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM9 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM10 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM11 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM12 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM13 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM14 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM15 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM16 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM17 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM18 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM19 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM20 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM21 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM22 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM23 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM24 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM25 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM26 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM27 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM28 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM29 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM30 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM31 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM32 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM33 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM34 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM35 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM36 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM37 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM38 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM39 pad net1 iovdd iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XM40 iovdd net1 pad iovdd sg13_hv_pmos w=6.66u l=0.6u ng=1 m=1
XR1 net1 iovdd sub! rppd w=0.5e-6 l=12.9e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_SecondaryProtection.sym # of pins=4
** sym_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_SecondaryProtection.sym
** sch_path: /foss/designs/IHP-Open-PDK/ihp-sg13g2/libs.ref/sg13g2_io/xschem/sg13g2_SecondaryProtection.sch
.subckt sg13g2_SecondaryProtection iovdd pad core iovss
*.iopin iovdd
*.iopin iovss
*.iopin core
*.iopin pad
XR1 pad core sub! rppd w=1e-6 l=2e-6 m=1 b=0
XD1 iovss core dantenna l=3.1u w=0.78u
XD2 core iovdd dpantenna l=0.78u w=4.98u
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/DLine.sym # of pins=4
** sym_path: /foss/designs/DLL/2026/Cells/DLine.sym
** sch_path: /foss/designs/DLL/2026/Cells/DLine.sch
.subckt DLine VSS VDD VIN VOUT
*.opin VOUT
*.ipin VIN
*.iopin VDD
*.iopin VSS
x7[1] net3_1 VIN VDD VSS sg13g2_dlygate4sd1_1
x7[0] net3_0 VIN VDD VSS sg13g2_dlygate4sd1_1
x9[3] net1_3 net3_1 VDD VSS sg13g2_inv_2
x9[2] net1_2 net3_0 VDD VSS sg13g2_inv_2
x9[1] net1_1 net3_1 VDD VSS sg13g2_inv_2
x9[0] net1_0 net3_0 VDD VSS sg13g2_inv_2
x1[7] net2_7 net1_3 VDD VSS sg13g2_inv_2
x1[6] net2_6 net1_2 VDD VSS sg13g2_inv_2
x1[5] net2_5 net1_1 VDD VSS sg13g2_inv_2
x1[4] net2_4 net1_0 VDD VSS sg13g2_inv_2
x1[3] net2_3 net1_3 VDD VSS sg13g2_inv_2
x1[2] net2_2 net1_2 VDD VSS sg13g2_inv_2
x1[1] net2_1 net1_1 VDD VSS sg13g2_inv_2
x1[0] net2_0 net1_0 VDD VSS sg13g2_inv_2
x2[15] VOUT net2_7 VDD VSS sg13g2_inv_2
x2[14] VOUT net2_6 VDD VSS sg13g2_inv_2
x2[13] VOUT net2_5 VDD VSS sg13g2_inv_2
x2[12] VOUT net2_4 VDD VSS sg13g2_inv_2
x2[11] VOUT net2_3 VDD VSS sg13g2_inv_2
x2[10] VOUT net2_2 VDD VSS sg13g2_inv_2
x2[9] VOUT net2_1 VDD VSS sg13g2_inv_2
x2[8] VOUT net2_0 VDD VSS sg13g2_inv_2
x2[7] VOUT net2_7 VDD VSS sg13g2_inv_2
x2[6] VOUT net2_6 VDD VSS sg13g2_inv_2
x2[5] VOUT net2_5 VDD VSS sg13g2_inv_2
x2[4] VOUT net2_4 VDD VSS sg13g2_inv_2
x2[3] VOUT net2_3 VDD VSS sg13g2_inv_2
x2[2] VOUT net2_2 VDD VSS sg13g2_inv_2
x2[1] VOUT net2_1 VDD VSS sg13g2_inv_2
x2[0] VOUT net2_0 VDD VSS sg13g2_inv_2
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/VCDL.sym # of pins=5
** sym_path: /foss/designs/DLL/2026/Cells/VCDL.sym
** sch_path: /foss/designs/DLL/2026/Cells/VCDL.sch
.subckt VCDL VDD VIN VOUT VCONT VSS
*.iopin VDD
*.iopin VSS
*.ipin VIN
*.ipin VCONT
*.opin VOUT
XM1 VOUT VIN net3 VSS sg13_lv_nmos w=2u l=0.13u ng=1 m=1
XM2 net3 VCONT VSS VSS sg13_lv_nmos w=2u l=0.16u ng=1 m=1
XM3 net1 VCONT VSS VSS sg13_lv_nmos w=2u l=0.25u ng=1 m=1
XM4 VOUT VIN net2 VDD sg13_lv_pmos w=4.46u l=0.13u ng=1 m=1
XM5 net2 net1 VDD VDD sg13_lv_pmos w=1.5u l=0.16u ng=1 m=1
XM6 net1 net1 VDD VDD sg13_lv_pmos w=2.24u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/PD.sym # of pins=5
** sym_path: /foss/designs/DLL/2026/Cells/PD.sym
** sch_path: /foss/designs/DLL/2026/Cells/PD.sch
.subckt PD VDD VSS PDIN1 PDOUT PDIN2
*.iopin VDD
*.iopin VSS
*.opin PDOUT
*.ipin PDIN1
*.ipin PDIN2
x1 PDOUT PDIN1 PDIN2 VDD VSS sg13g2_xor2_1
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/CP.sym # of pins=3
** sym_path: /foss/designs/DLL/2026/Cells/CP.sym
** sch_path: /foss/designs/DLL/2026/Cells/CP.sch
.subckt CP CPIN CPOUT VSS
*.iopin VSS
*.ipin CPIN
*.opin CPOUT
XC1 CPOUT VSS cap_cmim w=20e-6 l=20e-6 m=1
x1 net1 CPIN RES
x2 CPOUT net1 RES
.ends


* expanding   symbol:  /foss/designs/DLL/2026/Cells/RES.sym # of pins=2
** sym_path: /foss/designs/DLL/2026/Cells/RES.sym
** sch_path: /foss/designs/DLL/2026/Cells/RES.sch
.subckt RES ROUT RIN
*.ipin RIN
*.opin ROUT
XR1 net1 RIN sub! rppd w=1e-6 l=10e-6 m=1 b=0
XR3 net2 net1 sub! rppd w=1e-6 l=10e-6 m=1 b=0
XR4 net3 net2 sub! rppd w=1e-6 l=10e-6 m=1 b=0
XR5 ROUT net3 sub! rppd w=1e-6 l=10e-6 m=1 b=0
.ends

.GLOBAL GND
.GLOBAL sub!
.end
