** sch_path: /foss/designs/DLL/2026/testbenchs/tb_VCDL.sch
**.subckt tb_VCDL
Vin VIN VSS PULSE(0 1.2 0 10p 10p 0.99n 2n)
C1 VOUT VSS 100f m=1
x1[1] VDD VIN VOUT VCONT VSS VCDL
x1[0] VDD VIN VOUT VCONT VSS VCDL
V3 VDD GND 1.2
V4 VSS GND 0
V1 VCONT VSS 1.2
**** begin user architecture code


.param corner=0

.if (corner==0)
.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ
.endif



.control
* ---- settings you tweak ----


   * ---- user settings ----
  let vlow  = 0
  let vhigh = 1.2
  let v50   = vlow + 0.5*(vhigh - vlow)

  let start_edge = 0     ; skip early edges (settling)
  let N = 200             ; number of phase samples



  tran 2p 200n

  * ---- allocate vectors ----
  let tvec   = vector(N)
  let phivec = vector(N)

  let k = 0
  let i = start_edge

  while k < N
    * crossing times
    meas tran tin      WHEN v(VIN)=v50  RISE=i
    meas tran tout     WHEN v(VOUT)=v50 RISE=i
    meas tran tin_next WHEN v(VIN)=v50  RISE=(i+1)

    * delay + period
    let dt = tout - tin
    let T  = tin_next - tin

    * phase in degrees (per-cycle)
    let phi = 360*dt/T
    let phi = phi - 360*floor(phi/360)

    * store sample at time = tin
    let tvec[k]   = tin
    let phivec[k] = phi

    let k = k + 1
    let i = i + 1
  end

  * plot phase vs time (one point per cycle)
  plot phivec vs tvec
  *plot v(VCONT)
  plot v(VIN) v(VOUT)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/DLL/2026/Cells/VCDL.sym # of pins=5
** sym_path: /foss/designs/DLL/2026/Cells/VCDL.sym
** sch_path: /foss/designs/DLL/2026/Cells/VCDL.sch
.subckt VCDL VDD VIN VOUT VCONT VSS
*.iopin VDD
*.iopin VSS
*.ipin VIN
*.ipin VCONT
*.opin VOUT
XM1 VOUT VIN net3 VSS sg13_lv_nmos w=2u l=0.13u ng=1 m=1
XM2 net3 VCONT VSS VSS sg13_lv_nmos w=3u l=0.16u ng=1 m=1
XM3 net1 VCONT VSS VSS sg13_lv_nmos w=2u l=0.25u ng=1 m=1
XM4 VOUT VIN net2 VDD sg13_lv_pmos w=4.46u l=0.13u ng=1 m=1
XM5 net2 net1 VDD VDD sg13_lv_pmos w=4.46u l=0.16u ng=1 m=1
XM6 net1 net1 VDD VDD sg13_lv_pmos w=2.24u l=0.13u ng=1 m=1
.ends

.GLOBAL GND
.end
